US04602032
(b) 9-acetylamino-3,4-dimethoxy-6-methyl-phenanthrene (compound of formual VI)
105.7 ml (0.750M) of N-ethyl-N,N-diisopropyl-amine are added to a solution of 100.2 g (0.375M) of 9-amino-3,4-dimethoxy-6-methyl-phenanthrene in 1000 ml methylene chloride. To the resulting mixture is added dropwise over 30 minutes a solution of 34.5 ml (0.450M) of acetyl chloride in 250 ml methylene chloride. During the addition, the temperature of the reaction mixture is maintained at 20° by cooling with ice. The reaction mixture is stirred for 2 hours at room temperature and extracted with methylene chloride. The organic phases are washed with ice cooled 2N hydrochloric acid, water and 2N sodium bicarbonate, dried over sodium sulfate and evaporated, to give the title compound. M.pt. 190°-192° after crystallization from acetone/ether.

reactant | N-ethyl-N,N-diisopropyl-amine | 0.750M, 105.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 9-amino-3,4-dimethoxy-6-methyl-phenanthrene | 0.375M, 100.2 g | NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C17H17NO2
reactant | acetyl chloride | 0.450M, 34.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 9-acetylamino-3,4-dimethoxy-6-methyl-phenanthrene | C(C)(=O)NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C19H19NO3
